US05116862
Sodium hydride (4.6 g of 60% dispersion in mineral oil) was added to a stirred solution of but-3-yn-1-ol (16.2 g, 0.23 mol, Lancaster) in dry toluene (200 ml). After stirring for 2 hours at 25° C. a solution of ethyl 3-bromopropionate (20.8 g, 0.115 mol, Lancaster) was added. The reaction mixture was stirred and refluxed for 7 hours. Ethyl 3-(but-3-ynyloxy)propionate (17.8 g) was obtained by quenching the cooled reaction mixture in water, extracting with ether, washing with brine, drying over anhydrous magnesium sulphate followed by evaporation.

reactant | Sodium hydride | 4.6 g | [H-].[Na+]
reactant | but-3-yn-1-ol | 0.23 mol, 16.2 g | C(CC#C)O | C4H6O
reactant | ethyl 3-bromopropionate | 0.115 mol, 20.8 g | BrCCC(=O)OCC | C5H9BrO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-(but-3-ynyloxy)propionate | 17.8 g | C(CC#C)OCCC(=O)OCC | C9H14O3
